US07229999B2
N-((R)-2-Cyclopropyl-2-hydroxy-propyl)-5-(4-fluoro-phenyl)-6-(pyridin-2-ylmethoxy)-nicotinamide
The title compound was synthesized in analogy to Example 75, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, 2-pyridinemethanol, (4-fluoro-phenyl)-boronic acid and (R)-α-(aminomethyl)-α-methyl-cyclopropanemethanol as starting materials to yield N-((R)-2-cyclopropyl-2-hydroxy-propyl)-5-(4-fluoro-phenyl)-6-(pyridin-2-ylmethoxy)-nicotinamide, MS (ISP) 422.0 (M+H)+.

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | 2-pyridinemethanol | N1=C(C=CC=C1)CO | C6H7NO
reactant | (4-fluoro-phenyl)-boronic acid | FC1=CC=C(C=C1)B(O)O | C6H6BFO2
reactant | (R)-α-(aminomethyl)-α-methyl-cyclopropanemethanol | NC[C@](O)(C1CC1)C | C6H13NO
product | N-((R)-2-cyclopropyl-2-hydroxy-propyl)-5-(4-fluoro-phenyl)-6-(pyridin-2-ylmethoxy)-nicotinamide | C1(CC1)[C@@](CNC(C1=CN=C(C(=C1)C1=CC=C(C=C1)F)OCC1=NC=CC=C1)=O)(C)O | C24H24FN3O3
